US05654326
4-Methoxy-2-methyl-1H-indole (644 mg, 4 mmol) was dissolved in 10 mL of DMF and 160 mg (4 mmol) of 60% NaH/mineral oil was added. After 0.67 hours, 707 mg (4 mmol) of 1-(chloromethyl)naphthalene was added. After 5 hours, the mixture was diluted with water and extracted twice with ethyl acetate. The combined ethyl acetate was washed with brine, dried (MgSO4) and concentrated at reduced pressure. The residue was chromatographed on silica gel and eluted with 20% EtOAc/hexane to give 1.17 g (97% yield) of 4-methoxy-2-methyl-1-[(1-naphthalenyl)methyl]-1H-indole.

reactant | 4-Methoxy-2-methyl-1H-indole | 4 mmol, 644 mg | COC1=C2C=C(NC2=CC=C1)C | C10H11NO
reactant | NaH | 4 mmol, 160 mg | [H-].[Na+]
reactant | 1-(chloromethyl)naphthalene | 4 mmol, 707 mg | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-methoxy-2-methyl-1-[(1-naphthalenyl)methyl]-1H-indole | 1.17 g, 97% yield | COC1=C2C=C(N(C2=CC=C1)CC1=CC=CC2=CC=CC=C12)C | C21H19NO
